US07582651B2
(4) (2E)-3-(1-benzhydryl-3-cyano-4,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-N-(3,3-dimethylbutyl)prop-2-enamide
To a solution of (2E)-3-(1-benzhydryl-3-cyano-4,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-2-yl)propenoate (200 mg, 0.506 mmol) in THF (2 ml) were added DMF (0,01 ml) and oxalylchloride (0.053 ml, 0.607 mmol), the mixture was stirred at room temperature 1 hour, and the solvent was distilled off under reduced pressure. The residue was added under ice-cooling to a solution of 3,3-dimethylbutylamine (0.103 mg, 0.760 mmol), triethylamine (0.177 ml, 1.27 mmol) and THF (4 ml), and the mixture was stirred under ice-cooling for 1 hour. After stirring at room temperature for 4 hours, the reaction solution was poured into water and extracted with ethyl acetate. The extract was washed with water, dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=9:1) to give the objective product as a solid material. The resultant material was recrystallized from hexane and ethyl acetate.

reactant | (2E)-3-(1-benzhydryl-3-cyano-4,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-2-yl)propenoate | 0.506 mmol, 200 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=C(C=2C1=NC(=CC2C)C)C#N)/C=C/C(=O)[O-]
reactant | oxalylchloride | 0.607 mmol, 0.053 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3,3-dimethylbutylamine | 0.760 mmol, 0.103 mg | CC(CCN)(C)C | C6H15N
reactant | triethylamine | 1.27 mmol, 0.177 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | DMF | 0,01 ml | CN(C)C=O | C3H7NO
product | (2E)-3-(1-benzhydryl-3-cyano-4,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-N-(3,3-dimethylbutyl)prop-2-enamide | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=C(C=2C1=NC(=CC2C)C)C#N)/C=C/C(=O)NCCC(C)(C)C | C32H34N4O
